US04225609
Step B: Preparation of 1-Amino-3-(tetrahydro-2H-pyran-2-yloxy)octane
A solution of 3-(tetrahydro-2H-pyran-2-yloxy)caprylonitrile (4.05 g., 18 millimole) in dry ether (10 ml.) is added dropwise to a stirred suspension of lithium aluminum hydride (0.76 g., 20 millimole) in dry ether (90 ml.) maintained under a nitrogen atmosphere. Upon completion of the addition, the reaction mixture is stirred and heated at reflux for 16 hours. After cooling to 25° C., the reaction mixture is treated successively with water (1 ml.), and 5% aqueous sodium hydroxide (3 ml.) added dropwise with caution, affording a fine suspension which is cooled to and maintained at 0°-5° C. for 30 minutes, and filtered. In vacuo evaporation of the solvent leaves the title compound as a pale yellow oil (3.95 g., 95%), pmr (CDCl3) δ0.88 (3H, t), 2.79 (2H, m) and 4.68 (H, bs).

reactant | 3-(tetrahydro-2H-pyran-2-yloxy)caprylonitrile | 18 millimole, 4.05 g | O1C(CCCC1)OC(CC#N)CCCCC | C13H23NO2
reactant | lithium aluminum hydride | 20 millimole, 0.76 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1 ml | O | H2O
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 90 ml | CCOCC | C4H10O
product | 1-Amino-3-(tetrahydro-2H-pyran-2-yloxy)octane | 3.95 g, 95% | NCCC(CCCCC)OC1OCCCC1 | C13H27NO2
